US04292317
1-Allyl-7-(4-benzylpiperazinyl)-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid
2.8 g (0.01 mol) of 1-allyl-7-chloro-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, 7.2 g (0.04 mol) of 4-benzylpiperzine and 15 cm3 of DMSO were stirred and heated at 110° C. for 6 hours. The solvent was removed by distillation in vacuo. The residue was taken up in 40 cm3 of water. The suspension was adjusted to pH 7.3 by adding acetic acid. The precipitate was extracted with chloroform (4×20 cm3). The combined organic extracts were washed with water and then evaporated to dryness to give a viscous residue which crystallized on mixing with 10 cm3 of isopropanol. The solid was separated and recrystallised from methylcellosolve (30 cm3). 1.5 g of the acid, m.p. 209° C., were obtained.

reactant | 1-allyl-7-chloro-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 0.01 mol, 2.8 g | C(C=C)N1C=C(C(C2=CC(=C(C=C12)Cl)F)=O)C(=O)O | C13H9ClFNO3
reactant | 4-benzylpiperzine | 0.04 mol, 7.2 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | DMSO | 15 cm3 | CS(=O)C | C2H6OS
product | 1-Allyl-7-(4-benzylpiperazinyl)-6-fluoro-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 1.5 g | C(C=C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC1=CC=CC=C1)F)=O)C(=O)O | C24H24FN3O3
